US07893099B2
Step 1: 4-Bromo-1-(3-methyl-oxetan-3-ylmethyl)-1H-pyrazole
To a suspension of NaH (98 mg, 55% in mineral oil, 2.25 mmol) in DMF (1.2 ml) was added a solution of 4-bromopyrazole (300 mg, 2.04 mmol) in DMF (2 ml). The reaction mixture was stirred at room temperature for 15 minutes before a solution of 3-bromomethyl-3-methyloxetane (404 mg, 2.45 mmol) in DMF (2 ml) was added slowly. The mixture was stirred at room temperature for 1.5 h, then diluted with saturated NaHCO3 solution and extracted with 3 times with EtOAc. The combined organic layers were washed 2 times with water and with brine, dried (Na2SO4) and evaporated. The remaining colorless oil was purified by silica gel chromatography (heptane/EtOAc 80:20-50:50) to obtain the title compound (444 mg, 94%) as colorless oil. MS (EI): 231.2 (M+H)+.

reactant | NaH | 2.25 mmol, 98 mg | [H-].[Na+]
reactant | 4-bromopyrazole | 2.04 mmol, 300 mg | BrC=1C=NNC1 | C3H3BrN2
reactant | 3-bromomethyl-3-methyloxetane | 2.45 mmol, 404 mg | BrCC1(COC1)C | C5H9BrO
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-Bromo-1-(3-methyl-oxetan-3-ylmethyl)-1H-pyrazole | 444 mg, 94% | BrC=1C=NN(C1)CC1(COC1)C | C8H11BrN2O
